US08383629B2
To a stirred solution of (E)-tert-butyl 1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-1H-spiro[isoquinoline-4,4′-piperidine]-2(3H)-carboxylate (64 mg, 0.13 mmol) in CH2Cl2 (2 mL) was added 4 M HCl in dioxane (2 mL). The mixture was stirred at rt for 2 h and concentrated to afford (E)-1-(2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one as its hydrochloride salt. LC-MS Method 1 tR=1.26, min, m/z=401.

reactant | (E)-tert-butyl 1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-1H-spiro[isoquinoline-4,4′-piperidine]-2(3H)-carboxylate | 0.13 mmol, 64 mg | FC(C1=C(C=CC=C1)/C=C/C(=O)N1CCC2(CC1)CN(CC1=CC=CC=C12)C(=O)OC(C)(C)C)(F)F | C28H31F3N2O3
reactant | HCl | 4 M | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (E)-1-(2,3-dihydro-1H-spiro[isoquinoline-4,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one | N1(CCC2(CC1)CNCC1=CC=CC=C12)C(\C=C\C1=C(C=CC=C1)C(F)(F)F)=O | C23H23F3N2O
